US07601726B2
Step 3 2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidine-5-carboxylic acid ((R)-1-methyl-2-methylsulfanyl-ethyl)-amide 2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidine-5-carboxylic acid (63.40 g, 166.7 mmol) was added to a mixture of dry dichloromethane (1 L) and dry DMF (0.5 mL), and the reaction mixture was cooled to 0° C. and stirred under nitrogen for 30 minutes. Oxalyl chloride (21.8 mL, 249.8 mmol) was added dropwise over three minutes, and the reaction mixture was stirred at 0° C. for 8 hours, then stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure, and dichloromethane (500 mL) was added to the residue. The mixture was cooled to 0° C. with stirring in an ice bath for 30 minutes, and (R)-1-methyl-2-methylsulfanyl-ethylamine (26.3 g, 1.837 mmol) was added, followed by triethylamine (51.5 mL, 369 mmol) dropwise over 10 minutes. THe reaction mixtuer was stirred for one hour at 0° C., then stirred at room temperature for 20 hours. The reaction mixture was washed with water, and the organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to give 82.63 g of crude 2,4-bis-(2,4-difluoro-phenoxy)-pyrimidine-5-carboxylic acid ((R)-1-methyl-2-methylsulfanyl-ethyl)-amide as a viscous oil. MS(M+H)=468. Step 4 2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidine-5-carboxylic acid ((R)-2-methanesulfonyl-1-methyl-ethyl)-amide

reactant | 2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidine-5-carboxylic acid ((R)-1-methyl-2-methylsulfanyl-ethyl)-amide 2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidine-5-carboxylic acid | 166.7 mmol, 63.40 g | FC1=C(OC2=NC=C(C(=N2)OC2=C(C=C(C=C2)F)F)C(=O)O)C=CC(=C1)F.C[C@H](CSC)NC(=O)C=1C(=NC(=NC1)OC1=C(C=C(C=C1)F)F)OC1=C(C=C(C=C1)F)F
reactant | Oxalyl chloride | 249.8 mmol, 21.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (R)-1-methyl-2-methylsulfanyl-ethylamine | 1.837 mmol, 26.3 g | C[C@H](CSC)N | C4H11NS
reactant | triethylamine | 369 mmol, 51.5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 2,4-bis-(2,4-difluoro-phenoxy)-pyrimidine-5-carboxylic acid ((R)-1-methyl-2-methylsulfanyl-ethyl)-amide | 82.63 g | C[C@H](CSC)NC(=O)C=1C(=NC(=NC1)OC1=C(C=C(C=C1)F)F)OC1=C(C=C(C=C1)F)F | C21H17F4N3O3S
